US03994908
To thionyl chloride (3 ml), a mixture of 2-phenoxy-5-ethoxycarbonylethylisonicotinic acid (1.0 g) and dimethylformamide (a small amount) is added, and the resultant mixture is stirred at room temperature for 20 minutes. The reaction mixture is evaporated under reduced pressure to remove the thionyl chloride. The residue is mixed with dry benzene and evaporated again. The residue is dissolved in anhydrous ether, and the insoluble part is filtered off. The ether solution is evaporated to give 2-phenoxy-5-ethoxycarbonylethylisonicotinoyl chloride (1.05g). IR (CHCl3): 1775, 1735 cm-1.

reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-phenoxy-5-ethoxycarbonylethylisonicotinic acid | 1.0 g | O(C1=CC=CC=C1)C=1C=C(C(=O)O)C(=CN1)CCC(=O)OCC | C17H17NO5
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-phenoxy-5-ethoxycarbonylethylisonicotinoyl chloride | 1.05g | O(C1=CC=CC=C1)C=1C=C(C(=O)Cl)C(=CN1)CCC(=O)OCC | C17H16ClNO4
